US05164393
6-(2,4-Dichlorobenzyl)-4-ethoxy-2-(5,6,7,8-tetrahydroquinolin-2-yl)-pyrimidine
1.95 g (0.006 mol) of a 21% strength solution of sodium ethylate in ethanol were added dropwise to the solution of 2.0 g (0.005 mol) of 4-chloro-6-(2,4-dichlorobenzyl)-2-(5,6,7,8-tetrahydroquinolin-2-yl)-pyrimidine in 50 ml of absolute ethanol. The mixture was stirred for 16 hours at 25° C., and the solvent was distilled off in vacuo. The residue was dissolved in water, the solution was extracted three times using dichloromethane, and the organic phase was dried (MgSO4) and concentrated. Drying in vacuo gave 1.7 g (85%) of a white solid of melting point 98° C. to 100° C.

reactant | sodium ethylate | CC[O-].[Na+]
reactant | 4-chloro-6-(2,4-dichlorobenzyl)-2-(5,6,7,8-tetrahydroquinolin-2-yl)-pyrimidine | 0.005 mol, 2.0 g | ClC1=NC(=NC(=C1)CC1=C(C=C(C=C1)Cl)Cl)C1=NC=2CCCCC2C=C1 | C20H16Cl3N3
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-(2,4-Dichlorobenzyl)-4-ethoxy-2-(5,6,7,8-tetrahydroquinolin-2-yl)-pyrimidine | 1.7 g, 85% | ClC1=C(CC2=CC(=NC(=N2)C2=NC=3CCCCC3C=C2)OCC)C=CC(=C1)Cl | C22H21Cl2N3O
